US07723347B2
Dimethyl (2-fluoro-4-nitrophenyl)malonate
9.13 g (69.1 mmol) of dimethyl malonate are carefully added dropwise to a suspension of 1.66 g (69.1 mmol) of washed sodium hydride in 70 ml of DMSO. The mixture is heated at 100° C. for 40 min and then cooled to RT, and 5.00 g (31.4 mmol) of 3,4-difluoronitrobenzene are added. The mixture is stirred at RT for 30 min and then heated at 100° C. for one hour. The cooled reaction mixture is poured into a mixture of ethyl acetate (50 ml), cyclohexane (50 ml) and saturated ammonium chloride solution (250 ml). The aqueous phase is extracted twice with in each case 100 ml of ethyl acetate/cyclohexane (1:1). The combined organic phases are washed with water and saturated sodium chloride solution and dried over sodium sulfate. The solvent is removed under reduced pressure, giving an oil which crystallizes after addition of cyclohexane. The crystals are filtered off with suction and washed thoroughly with cyclohexane, giving a solid.

reactant | dimethyl malonate | 69.1 mmol, 9.13 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | 69.1 mmol, 1.66 g | [H-].[Na+]
reactant | 3,4-difluoronitrobenzene | 31.4 mmol, 5.00 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Dimethyl (2-fluoro-4-nitrophenyl)malonate | FC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C11H10FNO6
